US06916822B2
(d) 1′-(Benzyloxycarbonyl)spiro[3H-indole-3,4′-piperidin]-2(1H)-one
3-[2-[N-(Benzyloxycarbonyl)-N-(2-methanesulfonyloxyethyl)amino]ethyl]-2,3-dihydro-1H-indol-2-one (158 mg) was dissolved in N,N-dimethylformamide (3 ml), added with sodium hydride (60%, in oil, 29.2 mg) and stirred at room temperature for 1.5 hours. The reaction mixture was added with water (10 ml) and extracted twice with dichloromethane (10 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=2:1) to obtain 74.6 mg of the title compound. Yield: 61%.

reactant | 3-[2-[N-(Benzyloxycarbonyl)-N-(2-methanesulfonyloxyethyl)amino]ethyl]-2,3-dihydro-1H-indol-2-one | 158 mg | C(C1=CC=CC=C1)OC(=O)N(CCOS(=O)(=O)C)CCC1C(NC2=CC=CC=C12)=O | C21H24N2O6S
reactant | sodium hydride | 29.2 mg | [H-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1′-(Benzyloxycarbonyl)spiro[3H-indole-3,4′-piperidin]-2(1H)-one | 74.6 mg, Yield: 61% | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC1)C(NC1=CC=CC=C12)=O | C20H20N2O3
